US07834002B2
To a solution of 530 mg of (6-hydroxymethylpyridin-2-yl)morpholin-4-ylmethanone and 614 mg of diisopropylethyl-amine in 10 mL of methylene chloride at ice temperature, 0.28 mL of methanesulfonyl chloride was added dropwise, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (methylene chloride-ethanol=50:1) to give 570 mg of (6-chloromethylpyridin-2-yl)morpholin-4-ylmethanone as a yellow oil.

reactant | (6-hydroxymethylpyridin-2-yl)morpholin-4-ylmethanone | 530 mg | OCC1=CC=CC(=N1)C(=O)N1CCOCC1 | C11H14N2O3
reactant | diisopropylethyl-amine | 614 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.28 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-chloromethylpyridin-2-yl)morpholin-4-ylmethanone | 570 mg | ClCC1=CC=CC(=N1)C(=O)N1CCOCC1 | C11H13ClN2O2
